US07863444B2
5-(4-Amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (28 mg, 0.086 mmol) was dissolved in dichloromethane (1 mL). Pyridine (1 mL) was added followed by 2-phenylethanoyl chloride (14 uL, 0.105 mmol). After stirring overnight, another 14 uL of phenylmethanesulfonyl chloride was added and the reaction mixture was stirred overnight. The solvent was removed and the residue was purified by preparative thin layer chromatogram eluted with dichlormethane/methanol (95:5) to give N1-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]-2-phenylacetamide (7 mg, 0.0158 mmol). 1H NMR (DMSO-d6) δ 1.89 (m, 6H), 2.25 (m, 2H), 3.77 (s, 3H), 3.79 (s, 2H), 5.21 (m, 1H), 5.56 (bs, 2H), 6.89 (s, 1H), 6.99 (s, 1H), 7.05 (d, J=8.22, 1H), 7.36 (m, 5H), 7.81 (s, 1H), 8.27 (s, 1H), 8.43 (d, J=8.23 Hz, 1H). LC/MS MH+=442.

reactant | 5-(4-Amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.086 mmol, 28 mg | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCCC2)OC | C18H21N5O
reactant | Pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-phenylethanoyl chloride | 0.105 mmol, 14 uL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | phenylmethanesulfonyl chloride | 14 uL | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N1-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]-2-phenylacetamide | 0.0158 mmol, 7 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(CC2=CC=CC=C2)=O)OC)C2CCCC2 | C26H27N5O2
